US04141916
To a slurry of 1.63 grams (0.025 mole) of finely powdered potassium hydroxide (85 percent) in 150 milliliters of bromochloromethane were added 8.72 grams (0.025 mole) of 2,3,4-trichloro-6-((diethylamino)sulfonyl)benzenethiol. To this mixture, 0.40 gram of benzyltriethyl ammonium bromide, was added and the temperature rose from 26° to 30° C. over 20 minutes. The reaction mixture was cooled to room temperature and stirred at this temperature for 2 hours. The reaction mixture was thereafter heated at the reflux temperature of the mixture for 0.5 hour and then cooled to room temperature. The mixture was filtered to remove the potassium bromide by-product produced and then the bromochloromethane was removed from the filtrate, under reduced pressure, leaving a light orange solid as a residue. The residue was recrystallized from diethylether to give 4.2 grams of 3,4,5-trichloro-N,N-diethyl-2-((chloromethyl)thio)benzenesulfonamide as a cream colored solid which melted at 82°-83° C. Hexane was added to the ether filtrate, and the resulting solution concentrated to give an additional 4.1 grams of the desired product. The additional product melted at 81°-82° C. and the combined total yield of the product was 83 percent of theoretical. Upon analysis, the product was found to have carbon, hydrogen, chlorine, nitrogen and sulfur contents of 32.60, 3.17, 35.20, 3.85 and 17.38 percent, respectively, as compared with the theoretical contents of 33.26, 3.30, 35.71, 3.52 and 16.15 percent, respectively, calculated for the above named structure.

reactant | potassium hydroxide | [OH-].[K+]
reactant | 2,3,4-trichloro-6-((diethylamino)sulfonyl)benzenethiol | 0.025 mole, 8.72 grams | ClC1=C(C(=CC(=C1Cl)Cl)S(=O)(=O)N(CC)CC)S | C10H12Cl3NO2S2
reactant | bromochloromethane | 150 milliliters | BrCCl | CH2BrCl
catalyst | benzyltriethyl ammonium bromide | 0.40 gram | [Br-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 3,4,5-trichloro-N,N-diethyl-2-((chloromethyl)thio)benzenesulfonamide | 4.2 grams | ClC=1C(=C(C=C(C1Cl)Cl)S(=O)(=O)N(CC)CC)SCCl | C11H13Cl4NO2S2
